US04883653
Preparation of N,N'-Dicinnamoyl-2,4-Toluenediamine
In a 1 liter, 4 neck, flask equipped with a mechanical stirrer, thermometer, water condenser, and dropping funnel was placed 36.9 grams (0.3 moles) 2,4-toluenediamine, 48 grams pyridine, and 150 milliliters 1,4-dioxane. The flask and its contents were then cooled to 25° C. by means of an ice-water bath. To this cooled and stirred mixture was added by means of the dropping funnel a solution of 100 grams (0.6 moles) cinnamoyl chloride in 100 milliliters 1,4-dioxane. The addition required 0.5 hr. during which time the temperature of the flask and its contents was maintained between 25°-30° C. Upon completion of the addition the contents of the flask were allowed to stir at 25°-30° C. for an additional 0.5 hr. then poured into 500 milliliters of cold water which immediately caused the precipitation of light amber color solids. The solids were collected by suction filtration, partially dried, and recrystallized from 1,4-dioxane giving 98.0 grams (85.5% ) of light lemon color crystals. Recrystallization of this material from ethyl alcohol containing powdered charcoal gave 74 grams (64.6% yield) of pure white crystals which melted at 217°-219° C.

reactant | 2,4-toluenediamine | 0.3 moles, 36.9 grams | C=1(C(=CC(=CC1)N)N)C | C7H10N2
reactant | pyridine | 48 grams | N1=CC=CC=C1 | C5H5N
reactant | cinnamoyl chloride | 0.6 moles, 100 grams | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | water | 500 milliliters | O | H2O
solvent | 1,4-dioxane | 100 milliliters | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 150 milliliters | O1CCOCC1 | C4H8O2
product | N,N'-Dicinnamoyl-2,4-Toluenediamine | 74 grams, 64.6% yield | C(C=CC1=CC=CC=C1)(=O)NC=1C(=CC=C(C1)NC(C=CC1=CC=CC=C1)=O)C | C25H22N2O2
